US07635715B2
Step C: Preparation of 2-Methyl-2-(3-(2-(trimethylsilyl)ethynyl)pyridin-2-yl)propanenitrile
2-(3-Iodopyridin-2-yl)-2-methylpropanenitrile (1.8 g, 6.6 mmol), cuprous iodide (0.045 mL, 1.3 mmol) and dichlorobis(triphenylphosphine)palladium (II) (0.46 g, 0.66 mmol) were dissolved in TEA (20 mL, 143 mmol). Ethynyltrimethylsilane (4.7 mL, 33 mmol) was added to the reaction mixture, and the reaction mixture was placed under an argon atmosphere. The reaction mixture was stirred and heated at 80° C. After 45 minutes, the reaction was >95% complete as determined by LCMS. The reaction was cooled to room temperature and then filtered through Celite to remove a dark solid. The filtrate was concentrated in vacuo and purified by silica flash chromatography (0-50% EtOAc/hexane) to give the title compound as a light-orange oil (1.6 g, 100%). MS (m/z)=243 (M+H)+. Calculated for C14H18N2Si 242.4.

reactant | 2-(3-Iodopyridin-2-yl)-2-methylpropanenitrile | 6.6 mmol, 1.8 g | IC=1C(=NC=CC1)C(C#N)(C)C | C9H9IN2
reactant | Ethynyltrimethylsilane | 33 mmol, 4.7 mL | C(#C)[Si](C)(C)C | C5H10Si
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.66 mmol, 0.46 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Methyl-2-(3-(2-(trimethylsilyl)ethynyl)pyridin-2-yl)propanenitrile | 1.6 g, 100% | CC(C#N)(C)C1=NC=CC=C1C#C[Si](C)(C)C | C14H18N2Si
